US07135466B2
N-{3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(3-ethoxypropanoyl)thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 3-ethoxypropanoic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 3-ethoxypropanoyl isothiocyanate was prepared using the resultant 3-ethoxypropanoyl chloride as a starting compound according to the description of the literature. 3-Ethoxypropanoyl isothiocyanate was dissolved in ethanol (1 ml) to prepare a solution. 3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline (50 mg), toluene (5 ml), and ethanol (1 ml) were added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (46 mg, yield 62%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-ethoxypropanoic acid | 80 mg | C(C)OCCC(=O)O | C5H10O3
reactant | 3-ethoxypropanoyl chloride | C(C)OCCC(=O)Cl | C5H9ClO2
reactant | 3-Ethoxypropanoyl isothiocyanate | C(C)OCCC(=O)N=C=S | C6H9NO2S
reactant | 3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline | 50 mg | ClC=1C=C(N)C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC | C17H15ClN2O3
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(3-ethoxypropanoyl)thiourea | 46 mg, yield 62% | ClC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC)NC(=S)NC(CCOCC)=O | C23H24ClN3O5S
